US07538114B2
To a solution of 4-(bis(4-chlorophenyl)methyl)piperazin-2-one (180 mg, 537 μmol) in 10 mL of dry THF was added methyl 2-bromoacetate (60 μl, 644 μmol), followed by sodium hydride, 60% dispersion in mineral oil (16 μl, 644 μmol). After stirring rt overnight, the solvent was evaporated to dryness and was directly submitted to column chromatography (SiO2, hexane to hexane/EtOAc=100:5 to 100:10 to 100:20 to 100:30) to give methyl 2-(4-(bis(4-chlorophenyl)methyl)-2-oxopiperazin-1-yl)acetate (160 mg) as a white solid.

reactant | 4-(bis(4-chlorophenyl)methyl)piperazin-2-one | 537 μmol, 180 mg | ClC1=CC=C(C=C1)C(N1CC(NCC1)=O)C1=CC=C(C=C1)Cl | C17H16Cl2N2O
reactant | methyl 2-bromoacetate | 644 μmol, 60 μl | BrCC(=O)OC | C3H5BrO2
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-(bis(4-chlorophenyl)methyl)-2-oxopiperazin-1-yl)acetate | 160 mg | ClC1=CC=C(C=C1)C(N1CC(N(CC1)CC(=O)OC)=O)C1=CC=C(C=C1)Cl | C20H20Cl2N2O3
